US08211908B2
To a solution of 83 mg of 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one in 15 mL of dichloromethane, 54 mg of 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbaldehyde, 86 μL of acetic acid and 0.36 g of sodium triacetoxyborohydride were dividedly added while reacting at room temperature for 1.5 days. To the reaction solution, water, a saturated aqueous sodium hydrogen carbonate solution, chloroform and sodium chloride were added, the organic layer was separated, and the aqueous layer was extracted with chloroform while salting out. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=5:1, and the resultant residue was dissolved in 5 mL of 6 mol/L hydrochloric acid, and then, the solvent was distilled off under reduced pressure. Diethyl ether was added to the resultant residue, and the solid was filtered off to obtain 0.12 g of 6-(((1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-1,4-benzoxazin-3(4H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one | 83 mg | NC1CCN(CC1)CCN1C(C=CC2=CC=CN=C12)=O | C15H20N4O
reactant | 3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carbaldehyde | 54 mg | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
reactant | sodium triacetoxyborohydride | 0.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | acetic acid | 86 μL | C(C)(=O)O | C2H4O2
product | 6-(((1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-1,4-benzoxazin-3(4H)-one hydrochloride | 0.12 g | Cl.O=C1N(C2=NC=CC=C2C=C1)CCN1CCC(CC1)NCC=1C=CC2=C(NC(CO2)=O)C1 | InChI=1S/C24H27N5O3.ClH/c30-22-16-32-21-5-3-17(14-20(21)27-22)15-26-19-7-10-28(11-8-19)12-13-29-23(31)6-4-18-2-1-9-25-24(18)29;/h1-6,9,14,19,26H,7-8,10-13,15-16H2,(H,27,30);1H
